US07820670B2
Step A: 3 -Bromo-N-(pyridin-2-ylmethyl)imidazo[1,2-b]pyridazin-6-amine
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and 2-(aminomethyl)pyridine according to general procedure 1 providing the amino compound (97 mg, 25%) as a white solid; Rf=0.80 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 8.52-8.51 (m, 1H), 7.83-7.79 (m, 1H), 7.63 (d, J=9.7 Hz, 1H), 7.59 (d, J=7.9 Hz, 1H), 7.41 (s, 1H), 7.33-7.31 (m, 1H), 6.84 (d, J=9.7 Hz, 1H), 4.70 (s, 2H); ES-MS: (M+H)=304, 306 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 3 -Bromo-N-(pyridin-2-ylmethyl)imidazo[1,2-b]pyridazin-6-amine | BrC1=CN=C2N1N=C(C=C2)NCC2=NC=CC=C2 | C12H10BrN5
